US06518423B1
N-(10H-Pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)-S-methylisothiourea
To a solution of 1.0 g of N-(10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)thiourea in acetone (10 ml)/N,N-dimethylformamide (10 ml) was added 1.0 ml of methyl iodide and the resulting mixture was stirred at room temperature for 0.5 hour. Next, the reaction mixture was distributed into an aqueous solution of potassium carbonate and ethyl acetate. The organic layer was extracted and washed with water. After distilling off the solvent under reduced pressure, the crystals thus precipitated were taken up by filtration and washed with ethyl acetate to thereby give 0.900 g of the title compound as yellow crystals.

reactant | N-(10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)thiourea | 1.0 g | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CNC(=S)N | C12H11N5S2
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | methyl iodide | 1.0 ml | CI | CH3I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(10H-Pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)-S-methylisothiourea | 0.900 g | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CNC(SC)=N | C13H13N5S2
